US08022206B2
3-(5-Aminomethylthiophen-3-yl)-7-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine
A mixture of 4-{6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}thiophene-2-carbaldehyde (10.0 mg, 0.0222 mmol), hydroxylamine hydrochloride (1.85 mg, 0.0266 mmol), potassium acetate, (2.61 mg, 0.0266 mmol) and ethanol (1.0 mL, 17 mmol) was stirred at room temperature for 20 minutes. The solution was concentrated in vacuo and extracted with DCM and sat. NaHCO3. The organic layer was concentrated in vacuo. Zinc (14.5 mg, 0.222 mmol), 2 M of HCl in H2O (0.5 mL) and THF (1.0 mL, 12 mmol) were added. The mixture was refluxed at 70° C. for 3 hours. The solution was concentrated in vacuo and extracted with DCM and sat. NaHCO3. The organic layer was concentrated in vacuo and dissolved in DMSO. The sample was purified by the MDPS to afford the title compound as white solid. MS (ES+): m/z 452.08/454.05 (100/75) [MH+]. HPLC: tR=0.62 min (HPLC-ACQUITY, Analytical). 1H NMR (400 MHz, CD3OD): δ=1.91 (d, J=6.6 Hz, 3H), 4.33 (s, 2H), 6.55 (q, J=6.8 Hz, 1H), 7.23 (t, J=8.6 Hz, 1H), 7.41 (dd, J=9.0, 4.9 Hz, 1H), 7.51 (s, 1H), 7.77 (d, J=1.3 Hz, 1H), 7.89 (s, 1H), 8.24 (s, 1H).

reactant | 4-{6-amino-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}thiophene-2-carbaldehyde | 0.0222 mmol, 10.0 mg | NC1=C(C2=C(C=N1)C(=CO2)C=2C=C(SC2)C=O)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C20H13Cl2FN2O3S
reactant | hydroxylamine hydrochloride | 0.0266 mmol, 1.85 mg | Cl.NO
reactant | potassium acetate | 0.0266 mmol, 2.61 mg | C(C)(=O)[O-].[K+]
reactant | ethanol | 17 mmol, 1.0 mL | C(C)O | C2H6O
reactant | HCl | 2 M | Cl | ClH
reactant | THF | 12 mmol, 1.0 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.5 mL | O | H2O
catalyst | Zinc | 0.222 mmol, 14.5 mg | [Zn] | Zn
product | 3-(5-Aminomethylthiophen-3-yl)-7-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)ethoxy]furo[3,2-c]pyridin-6-ylamine | NCC1=CC(=CS1)C1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C20H16Cl2FN3O2S
